US08497271B2
Part D. {(R)-1-[4-(tert Butyl-dimethyl-silanyloxy)-2-methoxy-phenyl]-2-hydroxy-ethyl}-carbamic acid benzyl ester
A mixture of [(R)-2-hydroxy-1-(4-hydroxy-2-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester (736.3 mg, 2.32 mmol), TBSCl (840.2 mg, 5.57 mmol) and imidazole (757.2 mg, 11.1 mmol) in DCM was stirred at rt for 24 h. The reaction was worked up with EtOAc/H2O. Flash column provided the titled compound (585.7 mg, 59%).

reactant | [(R)-2-hydroxy-1-(4-hydroxy-2-methoxy-phenyl)-ethyl]-carbamic acid benzyl ester | 2.32 mmol, 736.3 mg | C(C1=CC=CC=C1)OC(N[C@@H](CO)C1=C(C=C(C=C1)O)OC)=O | C17H19NO5
reactant | TBSCl | 5.57 mmol, 840.2 mg | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 11.1 mmol, 757.2 mg | N1C=NC=C1 | C3H4N2
reactant | EtOAc H2O | CCOC(=O)C.O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | {(R)-1-[4-(tert Butyl-dimethyl-silanyloxy)-2-methoxy-phenyl]-2-hydroxy-ethyl}-carbamic acid benzyl ester | 585.7 mg, 59% | C(C1=CC=CC=C1)OC(N[C@@H](CO)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)OC)=O | C23H33NO5Si
